US05736548
Sodium spheres (0.42 g) were dissolved in ethanol (20 ml) and then 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (2.02 g, 9.10 mmol) was added, followed by ethyl 2-[3-(4-morpholinyl)propoxy]benzoate (5.33 g). The reaction mixture was refluxed for 3 days, then stirred at room temperature, and then the solvent was stripped. The residue was dissolved in water (250 ml), acidified to a pH of about 7 with acetic acid and extracted with CHCl3. The organic layers were washed with brine, dried over MgSO4 and stripped to afford an oil. The oil was taken up in ether, filtered and the filtrate was stripped and purified by column chromatography on silica eluting with EtOAc (100%) followed by EtOAc/MeOH (80/20) to afford 2.71 g of 1-cyclopentyl-3-ethyl-6-[2-[3-(4-morpholinyl)propoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one, as a liquid [labelled as Example 26(b)]. The free base was treated with EtOH.HCl and 1.14 g of the hydrochloride salt (labelled as Example 26(c) was obtained, m.p. 220°-221° C.

reactant | Sodium | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 9.10 mmol, 2.02 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | ethyl 2-[3-(4-morpholinyl)propoxy]benzoate | 5.33 g | N1(CCOCC1)CCCOC1=C(C(=O)OCC)C=CC=C1 | C16H23NO4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 250 ml | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1-cyclopentyl-3-ethyl-6-[2-[3-(4-morpholinyl)propoxy]phenyl]pyrazolo[3,4-d]pyrimidin-4-one | 2.71 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=C(C=CC=C2)OCCCN2CCOCC2)CC | C25H33N5O3
